US08193214B2
3-(4-Methyl-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-one
To a suspension of 121 mg (3.2 mmol) of sodium borohydride in 50 mL of ethanol is added a solution of 624 mg (2.1 mmol) of 3-(4-methyl-benzo[b]thiophen-3-ylmethylene)-imidazo[1,2-a]pyridin-2-one in 50 mL of methanol dropwise at −78° C. After stirring for 15 minutes at −78° C., the reaction mixture is quenched with saturated aqueous ammonium chloride solution at −78° C. The product is extracted with dichloromethane. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired compound.

reactant | sodium borohydride | 3.2 mmol, 121 mg | [BH4-].[Na+]
reactant | 3-(4-methyl-benzo[b]thiophen-3-ylmethylene)-imidazo[1,2-a]pyridin-2-one | 2.1 mmol, 624 mg | CC1=CC=CC=2SC=C(C21)C=C2C(N=C1N2C=CC=C1)=O | C17H12N2OS
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | methanol | 50 mL | CO | CH4O
product | 3-(4-Methyl-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-one | CC1=CC=CC=2SC=C(C21)CC2C(N=C1N2C=CC=C1)=O | C17H14N2OS
